US09428510B2
1.77 g (1.1 eq) of 70% 3-chloroperbenzoic acid is added to a solution of 1.89 g (6.51 mmol) of 6-amino-5-iodo-2-(methylthio)nicotinonitrile in 60 ml of dichloromethane. The reaction medium is stirred at room temperature for 1 hour. Ethyl acetate is added and the organic phase is washed with saturated sodium bicarbonate solution, dried on magnesium sulfate, filtered and evaporated to yield 1.5 g (75%) of 6-amino-5-iodo-2-(methylsulfinyl)nicotinonitrile in the form of a white powder which may also contain 6-amino-5-iodo-2-(methylsulfonyl)nicotinonitrile in small proportions (<20%). If necessary, the mixture is used as-is in the following steps.

reactant | 3-chloroperbenzoic acid | 1.77 g, 1.1 eq | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-amino-5-iodo-2-(methylthio)nicotinonitrile | 6.51 mmol, 1.89 g | NC1=NC(=C(C#N)C=C1I)SC | C7H6IN3S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 6-amino-5-iodo-2-(methylsulfinyl)nicotinonitrile | 1.5 g, 75% | NC1=NC(=C(C#N)C=C1I)S(=O)C | C7H6IN3OS
